US07816522B2
(135e) {2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester
To a solution of 0.76 g of {2-[3-(t-butyldimethylsilanyloxy)-5-ethyl-2-fluorophenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 30 ml of THF there was added 1.6 ml of TBAF (1.0 M, THF solution) under a nitrogen atmosphere. The reaction mixture was stirred at room temperature for 4 hours, and then 200 ml of ethyl acetate and 100 ml of water were added. The organic layer was washed twice with 100 ml of water and once with 100 ml of saturated aqueous sodium chloride in that order and dried over anhydrous magnesium sulfate, the desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (0.41 g) as a white solid.

reactant | {2-[3-(t-butyldimethylsilanyloxy)-5-ethyl-2-fluorophenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 0.76 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)CC)O[Si](C)(C)C(C)(C)C)F)SC)=O | C28H35FN4O4SSi
reactant | TBAF | 1.0 M, 1.6 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | {2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 0.41 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)CC)O)F)SC)=O | C22H21FN4O4S
